US08404679B2
N-[(3RS,4SR)-1-(1-Cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-propionamide
In analogy to the procedure described for the synthesis of example 87 (step c), the title compound N-[(3RS,4SR)-1-(1-cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-propionamide was prepared from (1-cyclopropylmethyl-piperidin-4-yl)-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-methanone instead of N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide using 4-fluoro-alpha-methylphenyl acetic acid instead of 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid and was obtained as a colorless oil. MS m/e: 560.2 [M]+.

reactant | (1-cyclopropylmethyl-piperidin-4-yl)-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-methanone | C1(CC1)CN1CCC(CC1)C(=O)N1CC(C(C1)NC)C1=CC(=C(C=C1)Cl)Cl | C21H29Cl2N3O
reactant | 4-fluoro-alpha-methylphenyl acetic acid | FC1=CC=C(C=C1)C(C(=O)O)C | C9H9FO2
product | N-[(3RS,4SR)-1-(1-cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-propionamide | C1(CC1)CN1CCC(CC1)C(=O)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)N(C(C(C)C1=CC=C(C=C1)F)=O)C | C30H36Cl2FN3O2
